US08193199B2
To a stirring solution of a mixture of 3-(bromomethyl)-5-chloro-2-(2-chlorophenyl)quinoxaline and 2-(bromomethyl)-5-chloro-3-(2-chlorophenyl)-quinoxaline (8.5418 g, 23.21 mmol) in DMF (100.0 mL, 23.21 mmol) was added sodium azide (3.017 g, 46.42 mmol) at room temperature and the mixture was stirred at room temperature. After 40 min, the mixture was partitioned between EtOAc (200 mL) and H2O (100 mL). The organic layer was washed with brine (100 mL×1), dried over Na2SO4, filtered, and concentrated under reduced pressure to give 2-(azidomethyl)-5-chloro-3-(2-chlorophenyl)quinoxaline as a brown liquid: LC-MS (ESI) major peak of m/z 330.1 [M+H]+. The crude product was carried on crude without purification for the next step. To a stirring solution of 2-(azidomethyl)-5-chloro-3-(2-chlorophenyl)quinoxaline (7.6630 g, 23.21 mmol) in 100 mL of THF-H2O (4:1) was added dropwise trimethylphosphine, 1.0 M solution in THF (27.85 mL, 27.85 mmol) at room temperature and the mixture was stirred at room temperature. After 1 h, the mixture was diluted with ice-cold 1 N NaOH (100 mL) and extracted with EtOAc (100 mL×3). The combined organic layers were washed with brine (100 mL×3), dried over Na2SO4, and concentrated under the reduced pressure to give green syrup. The green syrup was purified by column chromatography on a 120 g of Redi-Sep™ column using 3% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 for 42 min, then 3% to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 27 min, and then 100% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 for 5 min as eluent to give two separated regioisomers: (8-chloro-3-(2-chlorophenyl)quinoxalin-2-yl)methanamine as a dark brown syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.07-8.15 (2H, m), 7.81-7.90 (1 H, m), 7.65-7.71 (1H, m), 7.52-7.66 (3H, m), 3.85 (2H, s), 2.23 (2H, br. s.); LC-MS (ESI) m/z 304.0 and 306.0 [M+H]+ and (5-chloro-3-(2-chlorophenyl)-quinoxalin-2-yl)methanamine as a reddish-brown syrupy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.15 (1H, dd, J=8.2, 1.2 Hz), 8.05 (1H, dd, J=7.8, 1.2 Hz), 7.85-7.93 (1H, m), 7.67-7.72 (1H, m), 7.53-7.66 (3H, m), 3.83 (2H, s), 2.07 (2H, br. s.); LC-MS (ESI) m/z 304.0 and 306.0 [M+H]+. The structures of two regioisomers were confirmed by NOESY experiment.

reactant | 3-(bromomethyl)-5-chloro-2-(2-chlorophenyl)quinoxaline | BrCC=1C(=NC2=CC=CC(=C2N1)Cl)C1=C(C=CC=C1)Cl | C15H9BrCl2N2
reactant | 2-(bromomethyl)-5-chloro-3-(2-chlorophenyl)-quinoxaline | 23.21 mmol, 8.5418 g | BrCC1=NC2=CC=CC(=C2N=C1C1=C(C=CC=C1)Cl)Cl | C15H9BrCl2N2
reactant | DMF | 23.21 mmol, 100.0 mL | CN(C)C=O | C3H7NO
reactant | sodium azide | 46.42 mmol, 3.017 g | [N-]=[N+]=[N-].[Na+]
product | 2-(azidomethyl)-5-chloro-3-(2-chlorophenyl)quinoxaline | N(=[N+]=[N-])CC1=NC2=CC=CC(=C2N=C1C1=C(C=CC=C1)Cl)Cl | C15H9Cl2N5
